US08017630B2
Palladium-on-charcoal (5%, 40 mg) was added to a solution of 2-[4-dimethylamino-4-(3-fluorophenyl)-cyclohexylidene]-N-[2-(1H-indol-3-yl)-1-methylethyl]-acetamide (417 mg, 0.96 mmol) in abs. methanol (40 ml). The reaction mixture was hydrogenated at RT under a pressure of 3 bar for 15 h. The catalyst was separated off over Celite and the filtrate was concentrated. After separation of the residue by chromatography on silica gel G [50 g; EA/MeOH (10:1)-(5:1)], the less polar diastereoisomer of 2-[4-dimethylamino-4-(3-fluorophenyl)cyclohexyl]-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide was isolated in a yield of 4% (15 mg) and the more polar diastereoisomer of 2-[4-dimethylamino-4-(3-fluorophenyl)cyclohexyl]-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide was isolated in a yield of 41% (170.2 mg). Both products were colourless oils and diastereoisomerically pure.

reactant | 2-[4-dimethylamino-4-(3-fluorophenyl)-cyclohexylidene]-N-[2-(1H-indol-3-yl)-1-methylethyl]-acetamide | 0.96 mmol, 417 mg | CN(C1(CCC(CC1)=CC(=O)NC(CC1=CNC2=CC=CC=C12)C)C1=CC(=CC=C1)F)C | C27H32FN3O
catalyst | Palladium-on-charcoal | 40 mg | [Pd] | Pd
solvent | methanol | 40 ml | CO | CH4O
product | 2-[4-dimethylamino-4-(3-fluorophenyl)cyclohexyl]-N-[2-(1H-indol-3-yl)-1-methylethyl]acetamide | yield of 4% | CN(C1(CCC(CC1)CC(=O)NC(CC1=CNC2=CC=CC=C12)C)C1=CC(=CC=C1)F)C | C27H34FN3O
